US06288061B1
2-(4-Hydroxyphenyl)-5-(4-methoxyphenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide, 2-dimethylaminoethanol, triphenylphosphine and diethyl azodicarboxylate are reacted and treated in the same manner as in Example 24 to give 2-(4-(2-dimethylaminoethyloxy)phenyl)-5-(4-methoxyphenyl)-N-(2-thiazolyl)imidazole-4-carboxamide.

reactant | 2-(4-Hydroxyphenyl)-5-(4-methoxyphenyl)-N-(2-thiazolyl)-imidazole-4-carboxamide | OC1=CC=C(C=C1)C=1NC(=C(N1)C(=O)NC=1SC=CN1)C1=CC=C(C=C1)OC | C20H16N4O3S
reactant | 2-dimethylaminoethanol | CN(CCO)C | C4H11NO
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | 2-(4-(2-dimethylaminoethyloxy)phenyl)-5-(4-methoxyphenyl)-N-(2-thiazolyl)imidazole-4-carboxamide | CN(CCOC1=CC=C(C=C1)C=1NC(=C(N1)C(=O)NC=1SC=CN1)C1=CC=C(C=C1)OC)C | C24H25N5O3S
